US06380210B1
2,5-difluorobenzoylchloride 1.5 eq is treated with 1.0 eq 1.25 g (3.3 mmole) of propyl({1-propyl-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]benzimidazol-2-yl}methyl) amine in dichloromethane at room temperature for 1 hr. The reaction is quenched with 1 N NaOH and partitioned between dichloromethane and water. The organic layer is dried over anhydrous Na2SO4 and the solvent removed in vacuo. The residue is chromatographed (SiO2) with ethyl acetate to afford 74% of (2,5-difluorophenyl)-N-propyl-N-({1-propyl-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]benzimidazol-2-yl}methyl)carboxamide.

reactant | 2,5-difluorobenzoylchloride | 1.5 eq | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | propyl({1-propyl-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]benzimidazol-2-yl}methyl) amine | 3.3 mmole, 1.25 g, 1.0 eq | C(CC)NCC1=NC2=C(N1CCC)C=CC(=C2)CO[Si](C(C)(C)C)(C)C | C21H37N3OSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2,5-difluorophenyl)-N-propyl-N-({1-propyl-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]benzimidazol-2-yl}methyl)carboxamide | 74% | FC1=C(C=C(C=C1)F)C(=O)N(CC1=NC2=C(N1CCC)C=CC(=C2)CO[Si](C(C)(C)C)(C)C)CCC | C28H39F2N3O2Si
